US09315467B2
Part A. A solution of 4-bromopyridine hydrochloride (1.0 g, 6.3 mmol) in acetonitrile-water (50 mL/20 mL) is treated with 4-isopropylbenzeneboronic acid (1.04 g, 6.3 mmol) and sodium carbonate (2.1 g, 25.2 mmol). The mixture is degassed twice, and a catalytic quantity of tetrakis(triphenylphosphine)palladium is added. The mixture is heated to reflux for 12 h., then cooled and poured into water (50 mL). The mixture is filtered and extracted with ethyl acetate (3×50 mL). The extracts are combined, washed with brine, dried over magnesium sulfate, filtered and evaporated to afford 1.01 g of sufficiently pure product, 4-(4-isopropyl-phenyl)-pyridine.

reactant | 4-bromopyridine hydrochloride | 6.3 mmol, 1.0 g | Cl.BrC1=CC=NC=C1
reactant | 4-isopropylbenzeneboronic acid | 6.3 mmol, 1.04 g | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | sodium carbonate | 25.2 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile water | 50 mL | C(C)#N.O
product | 4-(4-isopropyl-phenyl)-pyridine | C(C)(C)C1=CC=C(C=C1)C1=CC=NC=C1 | C14H15N
